US06720338B2
tert-butyl N-((5R)-5-(((9H-fluoren-9-ylmethoxy)carbonyl)amino)-6-hydroxyhexyl)carbamate
A solution of Fmoc-D-Lys(BOC)—OH (2.102 g, 4.5 mmol) in DME (5 mL) at −15° C. was treated successively with N-methylmorpholine (0.56 mL, 5.0 mmol) and isobutyl chloroformate (0.7 mL, 5 mmol), stirred for 2 minutes, and filtered. The filter cake was washed with DME (3×5 mL) and the combined filtrate and washings were cooled to −5° C. and treated with NaBH4 (0.3 g, 7.5 mmol) in water (5 mL) and additional water(250 mL) immediately afterwards. The mixture was stirred for 15 minutes and filtered. The filter cake was washed with water and dried to provide the desired product. MS (APCI) m/e 455 (M+H)+.

reactant | Fmoc-D-Lys(BOC)—OH | 4.5 mmol, 2.102 g | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H32N2O6
reactant | N-methylmorpholine | 5.0 mmol, 0.56 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5 mmol, 0.7 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 7.5 mmol, 0.3 g | [BH4-].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | tert-butyl N-((5R)-5-(((9H-fluoren-9-ylmethoxy)carbonyl)amino)-6-hydroxyhexyl)carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CCCCNC(OC(C)(C)C)=O)CO | C26H34N2O5
